US09290446B2
1) Preparation of methylphenylsulfoxide (Compound XI)
Methyl phenyl sulphide (20 g, 161.03 mmol) was added to a mixture of methanol (100 ml) and water (20 mL). NBS (34.39 g, 1.2 eq) was added in portions maintaining the temperature between 0° and 5° C. The mixture was stirred at the same temperature until the reaction was complete. Thereafter, the reaction mixture was quenched by the addition of Na2SO3 (10%, 60 ml). The pH of the resulting reaction mixture was adjusted to a value between 7 and 8 with saturated NaHCO3 solution. The mixture was concentrated under vacuum at a temperature between 20° C. and 25° C. The residue was extracted with dichloromethane (2×125 mL). The combined organic layer was washed with water (2×125 mL) and concentrated to ⅓ of the volume. Heptane (20 mL) was added and then removed by distillation to give 21.64 g (95.9%) of the desired product as colourless oil.

reactant | Methyl phenyl sulphide | 161.03 mmol, 20 g | C1(=CC=CC=C1)SC | C7H8S
reactant | methanol | 100 ml | CO | CH4O
reactant | NBS | 34.39 g, 1.2 eq | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | water | 20 mL | O | H2O
product | methylphenylsulfoxide | 21.64 g, 95.9% | CS(=O)C1=CC=CC=C1 | C7H8OS
